.include "XOR.sub"
.include "AND.sub"
.include "OR.sub"
.subckt full_adder node_a node_b node_c node_outC node_outS vdd gnd
X1 node_a node_b node_d vdd gnd XOR
X2 node_c node_d node_outS vdd gnd XOR

X3 node_d node_c node_e vdd gnd AND
X4 node_a node_b node_f vdd gnd AND
X5 node_e node_f node_outC vdd gnd OR
.ends full_adder